US08008295B2
3-{[(2-Bromoethyl)(2-hydroxyethyl)amino]sulfonyl}-5-methoxy-1H-indole-2-carboxamide
To a solution of 3-{[(2-bromoethyl)(2-hydroxyethyl)amino]sulfonyl}-5-hydroxy-1H-indole-2-carboxamide, described in Step B of Example 51, in 2:1 dichloromethane/MeOH was added excess trimethylsilyldiazomethane (solution in hexane). After stirring at room temperature for 16 hours, the mixture was concentrated in vacuo. Purification by preparative reversed phase HPLC afforded the titled product. HRMS (ES) exact mass calculated for C14H18BrN3O5S (M+H+): 420.0224. Found 420.0221.

reactant | 3-{[(2-bromoethyl)(2-hydroxyethyl)amino]sulfonyl}-5-hydroxy-1H-indole-2-carboxamide | BrCCN(S(=O)(=O)C1=C(NC2=CC=C(C=C12)O)C(=O)N)CCO | C13H16BrN3O5S
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | dichloromethane MeOH | ClCCl.CO
product | 3-{[(2-Bromoethyl)(2-hydroxyethyl)amino]sulfonyl}-5-methoxy-1H-indole-2-carboxamide | BrCCN(S(=O)(=O)C1=C(NC2=CC=C(C=C12)OC)C(=O)N)CCO | C14H18BrN3O5S
